US04281003
1-(2,6-DIFLUOROBENZOYL)-3-(5-TRIFLUOROMETHYL-2-PYRIDINYL)UREA
An 0.7 g. portion of 5-trifluoromethyl-2-aminopyridine was dissolved in 20 ml. of acetonitrile, and to the solution was added 0.85 g. of 2,6-difluorobenzoyl isocyanate under a nitrogen blanket at ambient temperature. A precipitate formed immediately. The mixture was stirred for 3 hours, and was then filtered and the solids were washed with acetonitrile. The solids were dried under vacuum to obtain 1.0 g. of the product named above, m.p. 215°-220° C. Elemental analysis gave the following results:

reactant | 5-trifluoromethyl-2-aminopyridine | FC(C=1C=CC(=NC1)N)(F)F | C6H5F3N2
reactant | 2,6-difluorobenzoyl isocyanate | FC1=C(C(=O)N=C=O)C(=CC=C1)F | C8H3F2NO2
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(2,6-DIFLUOROBENZOYL)-3-(5-TRIFLUOROMETHYL-2-PYRIDINYL)UREA | FC1=C(C(=O)NC(=O)NC2=NC=C(C=C2)C(F)(F)F)C(=CC=C1)F | C14H8F5N3O2
